US06613942B1
To a solution 2-chloro-4-hydroxybenzoic acid in anhydrous methanol was added thionyl chloride (1.5 eq). After stirring the solution at room temperature for 16 hours, the solvent was evaporated. The residue was taken up in ethyl acetate and washed with saturated aqueous sodium bicarbonate, water, brine, and dried over MgSO4 and concentrated in vacuo to give methyl 2-chloro-4-hydroxybenzoate.

reactant | 2-chloro-4-hydroxybenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)O | C7H5ClO3
reactant | thionyl chloride | 1.5 eq | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | methyl 2-chloro-4-hydroxybenzoate | ClC1=C(C(=O)OC)C=CC(=C1)O | C8H7ClO3
